US04430339
(a) 2-(7-Cyclohexylheptyl)-oxirane-2-carboxylic acid ethyl ester
5.25 g of the title compound, in the form of a colourless oil, which is purified by chromatography on silica gel (migrating agent: 90:10 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1a) from 9.2 g of 9-cyclohexyl-2-methylenenonanoic acid ethyl ester and 11.3 g of m-chloroperbenzoic acid in 100 ml of methylene chloride.

reactant | 9-cyclohexyl-2-methylenenonanoic acid ethyl ester | 9.2 g | C(C)OC(C(CCCCCCCC1CCCCC1)=C)=O | C18H32O2
reactant | m-chloroperbenzoic acid | 11.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(7-Cyclohexylheptyl)-oxirane-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(OC1)CCCCCCCC1CCCCC1 | C18H32O3
